US05286890
The alpha,omega-aniline terminated dimethyl siloxanes are prepared, starting with 3-bromoaniline, in which the amine functionality is protected, such as by reaction with 1,1,4,4-tetramethyl-1,4-bis(N,N-diethylamino)-1,4-disilabutane, to form 1-(3-bromophenyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane. The protected bromoaniline is then reacted with an alkyllithium or with magnesium to form the corresponding lithio or Grignard compound, respectively, which is then reacted with chlorodialkylsilane to form 1-(3-(dialkylsilyl)phenyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane. This reaction places the silane functionality in the meta position. Next, the protected dimethylsilane aniline is subjected to deprotection to form 3-aminophenyldialkyl silane, which is considered to be novel. This silane is then hydrolyzed to form the corresponding silanol, also considered to be novel. The silanol is then condensed to form bis(3-aminophenyl)-1,1,3,3-tetraalkyldisiloxane.

reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 1,1,4,4-tetramethyl-1,4-bis(N,N-diethylamino)-1,4-disilabutane | C[Si](CC[Si](N(CC)CC)(C)C)(N(CC)CC)C | C14H36N2Si2
product | 1-(3-bromophenyl)-2,2,5,5-tetramethyl-1-aza-2,5-disilacyclopentane | BrC=1C=C(C=CC1)N1[Si](CC[Si]1(C)C)(C)C | C12H20BrNSi2
